US09193723B2
5-(1-acetyl-1,2,3,6-tetrahydropyridin-4-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide
The title compound was prepared as described in Example 52A, substituting acetyl chloride for 2-cyclopentylacetyl chloride and N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-(1,2,3,6-tetrahydropyridin-4-yl)thiophene-2-carboxamide for methyl 4-aminobenzoate. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.13-9.06 (m, 1H), 8.48 (d, J=7.0 Hz, 1H), 7.88 (s, 1H), 7.72 (d, J=3.9 Hz, 1H), 7.51 (d, J=1.2 Hz, 1H), 7.38 (s, 1H), 7.15 (t, J=4.2 Hz, 1H), 6.83 (dd, J=7.0, 1.6 Hz, 1H), 6.28-6.21 (m, 1H), 4.46 (d, J=5.9 Hz, 2H), 4.15-4.04 (m, 2H), 3.61 (dt, J=11.3, 5.6 Hz, 2H), 2.63-2.35 (m, 2H), 2.07-1.99 (m, 3H); MS (ESI)(+)) m/e 381 (M+H)+.

reactant | 2-cyclopentylacetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-(1,2,3,6-tetrahydropyridin-4-yl)thiophene-2-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C=2SC(=CC2)C=2CCNCC2 | C18H18N4OS
reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
product | 5-(1-acetyl-1,2,3,6-tetrahydropyridin-4-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide | C(C)(=O)N1CCC(=CC1)C1=CC=C(S1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C20H20N4O2S
